US08871756B2
4-{4-[(4aS,7aR)-Hexahydropyrrolo[3,4-b][1,4]oxazin-6(2H)-yl]-6-methylquinolin-2-yl}-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide
The title compound was prepared in analogy to Example 8-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and (4aS,7aR)-octahydropyrrolo[3,4-b][1,4]oxazine. MS obsd. (ESI+) [(M+H)+] 465, 1H NMR (400 MHz, CD3OD) δ ppm 7.99 (dd, J=7.83, 1.26 Hz, 1 H), 7.85 (d, J=7.33 Hz, 1 H), 7.81 (s, 1 H), 7.63 (td, J=7.52, 1.39 Hz, 1 H), 7.50-7.41 (m, 2 H), 7.28 (dd, J=8.59, 1.77 Hz, 1 H), 6.09 (s, 1 H), 5.16 (s, 2 H), 4.51 (m, 2 H), 4.02-4.15 (m, 3 H), 3.86 (d, J=10.8 Hz, 1 H), 3.68-3.47 (m, 6 H), 3.238 (m, 1 H), 2.72 (m, 1 H), 2.41 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | (4aS,7aR)-octahydropyrrolo[3,4-b][1,4]oxazine | O1[C@H]2[C@@H](NCC1)CNC2 | C6H12N2O
product | 4-{4-[(4aS,7aR)-Hexahydropyrrolo[3,4-b][1,4]oxazin-6(2H)-yl]-6-methylquinolin-2-yl}-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | O1[C@H]2[C@@H](NCC1)CN(C2)C2=CC(=NC1=CC=C(C=C21)C)N2CCS(C1=C(C2)C=CC=C1)(=O)=O | C25H28N4O3S
